 
* Author: FOSSEE
* Date:

.subckt ua741 6 7 3 
* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 11:16:58 am ist
rout1  3 2 75
eout1  2 0 1 0 1
cbw1  1 0 31.85e-9
rbw1  1 4 0.5e6
ein1  4 0 7 6 100e3
rin1  7 6 2e6
* Control Statements

.ends ua741
x1 net-_r2-pad1_ net-_c1-pad2_ out ua741
r3  net-_c1-pad2_ out 10k
r1  in net-_c1-pad1_ 100k
r2  net-_r2-pad1_ gnd 1k
r4  out gnd 1k
c1  net-_c1-pad1_ net-_c1-pad2_ 20n
v1  in gnd pwl(0m 0 0.5m 5 25m 5 25.5m -5 50m -5 50.5m 5 75m 5 75.5m -5 100m -5)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end